US07655665B2
(2): Synthesis of 2-(nitromethylene)-1-((tetrahydrofuran-3-yl)methyl) imidazolidine
2.5 g (0.0178 mol) of 1,1-dimethylthio-2-nitroethene, 2.56 g (0.0178 mol) of N1-((tetrahydrofuran-3-yl)methyl)ethane-1,2-diamine were added to 50 ml of ethanol. The resulting mixture was heated under reflux for 8 hours at 80-90 ° C. The mixture was then cooled to educe solid, concentrated, filtrated and dried to give a light yellow powder in 81% yield.

reactant | 1,1-dimethylthio-2-nitroethene | 0.0178 mol, 2.5 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
reactant | N1-((tetrahydrofuran-3-yl)methyl)ethane-1,2-diamine | 0.0178 mol, 2.56 g | O1CC(CC1)CNCCN | C7H16N2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(nitromethylene)-1-((tetrahydrofuran-3-yl)methyl) imidazolidine | 81% yield | [N+](=O)([O-])C=C1N(CCN1)CC1COCC1 | C9H15N3O3
